US06258824B1
37A. [4-(3-Ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-di-pyridin-3-yl-methanol
Following the same procedure as that described in example 1E, 6-bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline (400 mg, 1.11 mmol) and di-pyridin-3-yl-methanone (225 mg, 1.22 mmol) generated the title compound of 37A (212 mg, 41.2% yield).

reactant | 6-bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline | 1.11 mmol, 400 mg | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C18H16BrNO2
reactant | di-pyridin-3-yl-methanone | 1.22 mmol, 225 mg | N1=CC(=CC=C1)C(=O)C=1C=NC=CC1 | C11H8N2O
product | [4-(3-Ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-di-pyridin-3-yl-methanol | 212 mg, 41.2% yield | C(C)OC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1C=NC=CC1)C=1C=NC=CC1)OC | C29H25N3O3
